US07582761B2
(a) (3R)-1-(3-Chloropyridin-2-yl)-3-methylpiperazine
A mixture of 2,3-dichloropyridine (0.74 g, 5 mmol, Aldrich) and (R)-(−)-2-methylpiperazine (0.6 g. 6 mmol, Aldrich) reacted under the conditions of Example 43a to give the title compound as a off-white solid. MS (ESI, pos. ion) m/z: 212 (M+1).

reactant | 2,3-dichloropyridine | 5 mmol, 0.74 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | (R)-(−)-2-methylpiperazine | 6 mmol, 0.6 g | C[C@H]1NCCNC1 | C5H12N2
product | (3R)-1-(3-Chloropyridin-2-yl)-3-methylpiperazine | ClC=1C(=NC=CC1)N1C[C@H](NCC1)C | C10H14ClN3
